US07645753B2
4-(Benzothiazol-2-ylamino)-piperidine-1-carboxylic acid ethyl ester
A mixture of 2-chloro-benzothiazole (2.00 g, 12.0 mmol, 1.0 equiv), ethyl 4-amino-1-piperidine carboxylate (2.44 g, 14.0 mmol, 1.2 equiv) and triethylamine (1.79 g, 18.0 mmol, 1.5 equiv) was heated by microwave irradiation to 180° C. for 5 min. To the crude reaction mixture was added dichloromethane (10 mL) and the suspension quickly poured onto tert-butyl methylether (200 mL). The hydrochloric salts of remaining ethyl 4-amino-1-piperidine carboxylate and triethylamine precipitated out and were removed by filtration. The filtrate was evaporated to dryness and the residue purified with column chromatography on silica eluting with dichloromethane/methanol (95:5) to yield 2.7 g (75%) of the title compound as a white solid. 1H NMR (300 MHz, DMSO): δ 1.19 (t, J=7.1 Hz, 3H), 1.31-1.44 (m, 2H), 1.96-2.01 (m, 2H), 2.98-3.06 (m, 2H), 3.88-3.98 (m, 3H), 4.04 (q, J=7.1 Hz, 2H), 7.01 (t, J=7.4 Hz, 1H), 7.21 (t, J=7.8 Hz, 1H), 7.39 (d, J=7.4 Hz, 1H), 7.65 (d, J=7.8 Hz, 1H), 8.01 (d, J=7.3 Hz, 1H). MS (ISP): 306.0 [M+H]+.

reactant | 2-chloro-benzothiazole | 12.0 mmol, 2.00 g, 1.0 equiv | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | ethyl 4-amino-1-piperidine carboxylate | 14.0 mmol, 2.44 g, 1.2 equiv | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | triethylamine | 18.0 mmol, 1.79 g, 1.5 equiv | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(Benzothiazol-2-ylamino)-piperidine-1-carboxylic acid ethyl ester | 2.7 g, 75% | C(C)OC(=O)N1CCC(CC1)NC=1SC2=C(N1)C=CC=C2 | C15H19N3O2S
